US05627198
N-[5-(Phenylcarbonyl)-1,3,4-thiadiazol-2-yl]-2-hydroxy-2-methylbutanamide
Thionyl chloride (60 μl, 0.82 mmol) is added to 2-hydroxy-methylbutyric acid (96.0 mg, 0.813 mmol) in 5.0 ml of N,N-dimethylacetamide at -20°/-15° C. and the mixture is stirred at -15°/-10° C. for one hour. After adding 2-amino-5-(phenylcarbonyl)-1,3,4-thiadiazole (102.3 mg, 0.499 mmol) and equilibrating the reaction mixture to room temperature, it is stirred overnight. The reaction mixture is poured into 100 ml of water and subjected to extraction with 3×25 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and filtered and the solvent is distilled off. The oil which remains is purified by flash chromatography (eluent: 33% v/v ethyl acetate in petroleum ether (40/60)).

reactant | Thionyl chloride | 0.82 mmol, 60 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxy-methylbutyric acid | 0.813 mmol, 96.0 mg | OC(C(=O)O)(CC)C | C5H10O3
reactant | 2-amino-5-(phenylcarbonyl)-1,3,4-thiadiazole | 0.499 mmol, 102.3 mg | NC=1SC(=NN1)C(=O)C1=CC=CC=C1 | C9H7N3OS
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylacetamide | 5.0 ml | CN(C(C)=O)C | C4H9NO
product | N-[5-(Phenylcarbonyl)-1,3,4-thiadiazol-2-yl]-2-hydroxy-2-methylbutanamide | C1(=CC=CC=C1)C(=O)C1=NN=C(S1)NC(C(CC)(C)O)=O | C14H15N3O3S
